US05571825
To a solution of ρ-toluenesulfonic acid monohydrate (50 mg, 0.3 mmol) in 10 mL of toluene, which contains 300-500 mg of activated 3 Å molecular sieves, is added 4-methylthiobenzhydrol (0.30 g, 1.3 mmol) and methyl thioglycolate (140 μL, 1.6 mmol), and the reaction is stirred for 2 hours. The reaction is diluted with ethyl acetate and washed with a saturated solution of sodium bicarbonate, water, followed by brine. The organic phase is dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting oil is chromatographed on silica gel eluting with ethyl acetate:toluene:hexane (2:18:80) to give 0.23 g (56%) of methyl [[(4-methylthiophenyl)phenylmethyl]thio]acetate as an oil.

reactant | ρ-toluenesulfonic acid monohydrate | 0.3 mmol, 50 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 4-methylthiobenzhydrol | 1.3 mmol, 0.30 g | CSC1=CC=C(C(C2=CC=CC=C2)O)C=C1 | C14H14OS
reactant | methyl thioglycolate | 1.6 mmol, 140 μL | C(CS)(=O)OC | C3H6O2S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl [[(4-methylthiophenyl)phenylmethyl]thio]acetate | 0.23 g, 56% | CSC1=CC=C(C=C1)C(SCC(=O)OC)C1=CC=CC=C1 | C17H18O2S2
